US04284828
With stirring, 11.5 g of chlorine are introduced at room temperature into a solution of 8 g of 2-phenoxyanisole in 85 ml of 1,2-dichloroethane in the course of 20 minutes. The reaction mixture is then stirred for 30 minutes at room temperature. The solvent is removed by evaporation and the crystalline residue is recrystallised from methanol, affording 4,5-dichloro-2-(4-chlorophenoxy)anisole in the form of white crystals with a melting point of 105°-106° C.

reactant | chlorine | 11.5 g | ClCl | Cl2
reactant | 2-phenoxyanisole | 8 g | O(C1=CC=CC=C1)C1=C(C=CC=C1)OC | C13H12O2
reactant | 1,2-dichloroethane | 85 ml | ClCCCl | C2H4Cl2
product | 4,5-dichloro-2-(4-chlorophenoxy)anisole | ClC1=CC(=C(C=C1Cl)OC)OC1=CC=C(C=C1)Cl | C13H9Cl3O2
